US06468998B1
(S)-N-(Pyrrolidin-3-yl)-1-adamantanecarboxamide (0.5 g) and 2-(3-fluorophenyl)ethyl p-toluenesulfonate (0.59 g) were reacted under the same conditions as in Example 6 to give (S)-N-(1-(2-(3-fluorophenyl)ethyl)pyrrolidin-3-yl)-1-adamantanecarboxamide (0.22 g), melting point 87-89° C.

reactant | (S)-N-(Pyrrolidin-3-yl)-1-adamantanecarboxamide | 0.5 g | N1C[C@H](CC1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C15H24N2O
reactant | 2-(3-fluorophenyl)ethyl p-toluenesulfonate | 0.59 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC1=CC(=CC=C1)F)C | C15H15FO3S
product | (S)-N-(1-(2-(3-fluorophenyl)ethyl)pyrrolidin-3-yl)-1-adamantanecarboxamide | 0.22 g | FC=1C=C(C=CC1)CCN1C[C@H](CC1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C23H31FN2O
